US07622471B2
3,4,5-Trimethylpiperazine-1-carboxylic acid tert-butyl ester
3,5-Dimethylpiperazine-1-carboxylic acid tert-butyl ester (3.31 g) obtained from Referential Example 87 was dissolved in methanol (50 mL). To the resultant solution, 10% palladium-carbon (0.504 g), 35% aqueous formalin (1.85 mL), and 1M HCl in ethanol (15.4 mL) were added at room temperature, and the mixture was stirred in a hydrogen atmosphere for 19 hours. 10% Palladium-carbon (0.95 g), 35% aqueous formalin (1.8 mL), and 1M HCl-ethanol (15 mL) were added thereto, followed by stirring in a hydrogen atmosphere for 23 hours. After the system was purged with nitrogen, the resultant mixture was neutralized through addition of the aqueous sodium hydroxide, and insoluble matter was removed by filtration. The filtrate was brought to dryness under reduced pressure. The residue was purified through silica gel column chromatography (chloroform−7N ammonia/methanol), to thereby give the title compound as an oily product (2.28 g, 65%).

reactant | 3,5-Dimethylpiperazine-1-carboxylic acid tert-butyl ester | 3.31 g | C(C)(C)(C)OC(=O)N1CC(NC(C1)C)C | C11H22N2O2
reactant | formalin | 1.85 mL | C=O | CH2O
reactant | HCl | 1M | Cl | ClH
reactant | hydrogen | [H][H] | H2
reactant | formalin | 1.8 mL | C=O | CH2O
reactant | HCl ethanol | 1M, 15 mL | Cl.C(C)O
solvent | methanol | 50 mL | CO | CH4O
solvent | ethanol | 15.4 mL | C(C)O | C2H6O
catalyst | palladium-carbon | 0.504 g | [C].[Pd]
catalyst | Palladium-carbon | 0.95 g | [C].[Pd]
product | 3,4,5-Trimethylpiperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(N(C(C1)C)C)C | C12H24N2O2
